US08895558B2
Step 3: benzyl 3-(tert-butyldimethylsilyloxy)propyl(methyl)carbamate
To the solution of benzyl 3-(tert-butyldimethylsilyloxy)propylcarbamate (5 g, 15.5 mmol) in tetrahydrofuran (20 ml), sodium hydride (1.24 g, 31 mmol, 60% in mineral oil) and iodomethane (3.86 ml, 62 mmol) were added slowly. The reaction temperature was warmed up to room temperature, and stirred for overnight. The reaction was completed quenched by water and organic material was extracted with ether. After evaporation of volatile material under reduced pressure, the residue was purified with silica gel column chromatography (EtOAC:Hx=1:10) to give title compound (4.9 g, 94%) as light yellow oil.

reactant | benzyl 3-(tert-butyldimethylsilyloxy)propylcarbamate | 15.5 mmol, 5 g | [Si](C)(C)(C(C)(C)C)OCCCNC(OCC1=CC=CC=C1)=O | C17H29NO3Si
reactant | sodium hydride | 31 mmol, 1.24 g | [H-].[Na+]
reactant | iodomethane | 62 mmol, 3.86 ml | IC | CH3I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | benzyl 3-(tert-butyldimethylsilyloxy)propyl(methyl)carbamate | 4.9 g, 94% | [Si](C)(C)(C(C)(C)C)OCCCN(C(OCC1=CC=CC=C1)=O)C | C18H31NO3Si
